US04789673
(i) N-methyl-10-aza-bicyclo[4.3.1]dec-8-ylamine (for Example B-35)
15 g of sodium are reacted in analogous manner to that disclosed below in Example (j) with 9.69 g 10-methyl-10-azabicyclo[4.3.1]decan-8-one oxime acetate [m.pt. 253°-253.5° C. prepared in analogous manner to that disclosed in Example A-lb] giving an oil bpt 105°/0.9 mm working up in conventional manner.

reactant | sodium | 15 g | [Na] | Na
reactant | 10-methyl-10-azabicyclo[4.3.1]decan-8-one oxime acetate | 9.69 g | C(C)(=O)O.CN1C2CCCCC1CC(C2)=NO
product | N-methyl-10-aza-bicyclo[4.3.1]dec-8-ylamine | CNC1CC2CCCCC(C1)N2 | C10H20N2
